US06048896
2-Hydroxy-4-(3',4'-dichlorophenyl)-4-oxo-2-butenoic acid (PNU 158776)
To an ice cooled solution of Methyl 2-hydroxy-4-(3',4'-dichlorophenyl)-4-oxo-2-butenoate (1 g, 3.6 mmol) in 95% ethanol (120 mL), 1N sodium hydroxide (7.2 mL, 7.2 mmol) were added on stirring, the resulting mixture was stirred at 0° C. for 2 hours and at room temperature for further 3 hours. The most of solvent was removed under reduced pressure and the residue taken up with 2 N HCl, the resulting suspension was stirred for 5 minutes and then filtered. The solid was washed with water, dried and recrystallized from methanol to provide the pure acid as colourless prisms (845 mg, 90%), mp.180-181° C.

reactant | Methyl 2-hydroxy-4-(3',4'-dichlorophenyl)-4-oxo-2-butenoate | 3.6 mmol, 1 g | OC(C(=O)OC)=CC(=O)C1=CC(=C(C=C1)Cl)Cl | C11H8Cl2O4
reactant | sodium hydroxide | 7.2 mmol, 1N, 7.2 mL | [OH-].[Na+]
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 2-Hydroxy-4-(3',4'-dichlorophenyl)-4-oxo-2-butenoic acid | 845 mg, 90% | OC(C(=O)O)=CC(=O)C1=CC(=C(C=C1)Cl)Cl | C10H6Cl2O4
